US06579983B1
4-[4-(1-Amino-1-methylethyl)phenyl]-5-cyano-N-{4-[2-piperidin-1-ylethyl]phenyl}pyrimidine-2-amine
4-[4-(1-tert-butoxycarbonylamino-1-methylethyl)phenyl]-5-cyano-N-[4-(2-piperidin-1-ylethyl)phenyl]pyrimidine-2-amine (380 mg) was stirred in 50% v/v CH2Cl2-TFA (5 mL) at room temperature for 30 min. The solvent was removed under reduced pressure and the resulting residue was redissolved in CH2Cl2, washed with saturated aqueous NaHCO3, dried (MgSO4) and evaporated to give the title compound (240 mg) as a yellow solid, m.p. 150°. δH (CDCl3) 8.70 (1H, s), 8.01 (2H, d, J 8.0 Hz), 7.73 (2H, d, J 8.0 Hz), 7.55 (2H, d, J 8.0 Hz), 7.22 (2H, d, J 8.0 Hz), 2.84 (2H, m), 2.63 (2H, m), 2.52 (4H, m) and 1.51 (6H, s).

reactant | 4-[4-(1-tert-butoxycarbonylamino-1-methylethyl)phenyl]-5-cyano-N-[4-(2-piperidin-1-ylethyl)phenyl]pyrimidine-2-amine | 380 mg | C(C)(C)(C)OC(=O)NC(C)(C)C1=CC=C(C=C1)C1=NC(=NC=C1C#N)NC1=CC=C(C=C1)CCN1CCCCC1 | C32H40N6O2
reactant | CH2Cl2-TFA | 5 mL | C(Cl)Cl.FC(F)(F)C(=O)O
product | 4-[4-(1-Amino-1-methylethyl)phenyl]-5-cyano-N-{4-[2-piperidin-1-ylethyl]phenyl}pyrimidine-2-amine | 240 mg | NC(C)(C)C1=CC=C(C=C1)C1=NC(=NC=C1C#N)NC1=CC=C(C=C1)CCN1CCCCC1 | C27H32N6
